Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Lamictal / Bactrim / Augmentin
 
Attending: ___.
 
Chief Complaint:
Persistent headache
 
Major Surgical or Invasive Procedure:
___ guided LP

 
History of Present Illness:
___ is a ___ woman with a history of chronic
migraines ___ years), endometriosis, aortic stenosis, and
anxiety who was referred by Dr. ___ expedited workup of 
her
headaches. He saw her yesterday in clinic as a second opinion. 

From Dr. ___ ___ note: 
"She has a longstanding history of headaches dating back to
greater than ___ years ago.  She initially thought that these 
were
largely sinus headaches with a bifrontal involvement.  She often
would be treated with antibiotics.  Headaches, at that time, 
were
not associated with nausea or vomiting.  She would have 
photophobia.  She would sit in the dark.  Sleep would generally
help these headaches.  They would occur at a frequency, perhaps 
a
couple of times per month.  There were no complicating features,
no numbness, no weakness, no tingling, no speech issues.  They
are not associated with her menses; albeit, she does not get 
them
given her endometriosis.  Stress would induce the headaches.  
The
headaches would build over time.  They would occur perhaps two 
to
three times a month.

"Her significant other than relates that the headaches started 
to
worsen in ___ and they were occurring on a daily basis. 
She felt initially that they were sinus related and was seen by
Ear, Nose, Throat doctor.  She has sinus films done that were
unremarkable.  She ultimately had a VNG or vestibular studies
done, which showed some involvement of the right side, with
findings consistent with a right peripheral vestibulopathy. 
However, vestibular migraine was also possible.  She underwent 
an
MRI of the brain around ___ with and without contrast. 
Impression:  Bilateral nonenhancing white matter lesions,
question demyelinating process without leptomeningeal
enhancement.

"She was seen by Neurology in ___.  At that time, she was
then diagnosed with migraine.  She was started on Topamax with
gradual escalation.  The Topamax she does admit help the
headaches. It also helped the spinning and dizziness at that
time.  She noted that perhaps she would have symptoms twice a
week.

"She did not return to see the neurologist and found another
neurologist, Dr. ___ she saw in ___.  Her electrolytes,
CBC, troponins were negative.  There is some suggestion of
starting propranolol at that time for the headaches given that
they had worsened.  She then underwent a repeat MRI on ___. 

About couple of weeks prior to that, she had had increasing
fatigue and her head was pounding and she noted pressure in the
front and the top of her head.  This was different than the
headaches over the last several months.  The MRI with and 
without
contrast showed:
1.  Abnormal enhancement of the anterior falx with question of
venous thrombosis versus meningitis.
2.  Nonspecific FLAIR hyperintensities that were unchanged from
the prior MRI done on ___.  This then prompted a CTA of 
the
head, a CTV of the head and a CT of the head.  The CT of the 
head
was unremarkable.  The CTA of the head and CTV were clear as 
well
without evidence of thrombosis or flow-limiting stenosis.

"Because of the enhancement in the anterior falx, she underwent 
a
lumbar puncture on ___.  This was abnormal with a white
count of 29 with 95% lymphs, normal protein, normal glucose. 
Culture was negative.  She had HSV, ___, ACE, ANCA, Lyme, HIV,
treponema antibodies, CSF oligoclonal bands and VZV sent, all of
these appear to be negative.  Her CRP was elevated at 16.6.

"The patient did relate that she had what she felt was some kind
of upper respiratory viral infection around that time.

"She then underwent a repeat MRI of the brain on ___.  
This
was abnormal with:
1.  Leptomeningeal enhancement.
2.  Restricted diffusion along the frontal falx, which were
likely consistent with infectious, inflammatory or neoplastic
process.  She had an MRI of the C-spine that was negative.  I am
assuming that the leptomeningeal enhancement was related to the
lumbar puncture.

"Other studies included visual evoked potentials that were
unremarkable.  She did see Ophthalmology because of some 
question
of demyelination.  However, her Ophthalmology exam was notable
for a large area of myelination in the superior part of the 
right
side of her eye.  This was inconsequential finding.

"Because of these symptoms and her frustration, she came to
___ for a second opinion.

"On spinal fluid test, she had an opening pressure of 15 cm of
water."

Neuro ROS: (From Dr. ___
"Notable for headaches and numbness and weakness, coordination
issues, backaches, difficulty walking, blurriness in her vision,
hearing problems, dizziness, memory problems, visual spots,
nausea, concentration problems, daytime sleepiness, depression,
chest pain and heart problems."

 
Past Medical History:
Bicuspid aortic stenosis
Migraines
Endometriosis
Optic nerve demyelination
Chronic sinus and ear infections
Hypertension
Anxiety
 
Social History:
___
Family History:
"Mother with sciatica.  Father with head problems, hypertension,
hyperlipidemia, glaucoma, brother with glaucoma, brother with 
eye
issues. There is a history of celiac issues in her son. 
Grandfather with sinus issues and cancer. Grandmother, diabetes,
glaucoma, blind in an eye and another grandmother with brain
cancer."
 
Physical Exam:
ADMISSION PHYSICAL EXAM
-Vitals: 
98.0 
80 
95/63 
16 
98% RA 

-General: Awake, cooperative, NAD. Wearing large dark 
sunglasses.

-HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted 
in
oropharynx. ** LEFT SCALP TENDERNESS TO PALPATION ** Patient
notes she has scalp pain when brushing her hair. 
-Neck: Supple. No nuchal rigidity.
-Cardiac: Well perfused. 
-Pulmonary: Breathing comfortably on room air.
-Extremities: No cyanosis, clubbing, or edema bilaterally. 
-Skin: No rashes or other lesions.

NEUROLOGIC EXAM:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent. Normal
prosody. There are no paraphasic errors. Able to read cell phone
without difficulty. Speech is not dysarthric. Able to follow 
both
midline and appendicular commands. 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 5 to 3mm and brisk. VFF to confrontation and no
extinction. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to speech.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___      ___   5    5  5     5     5   
R  5    ___      ___   5    5  5     5         5

-Sensory: No deficits to light touch throughout. 

-DTRs:
  Bi Tri ___ Pat Ach 
L  2  2    2    2   2   
R  2  2    2    2   2  

-Coordination: No intention tremor. No dysmetria on FNF or HKS. 

-Gait: Deferred. 

 
Pertinent Results:
ADMISSION LABS
---------------
___ 06:40PM BLOOD WBC: 12.9* Hgb: 13.___* 
___ 05:05PM URINE Blood: NEG Nitrite: NEG Protein: NEG
Glucose: NEG Ketone: NEG Bilirub: NEG Urobiln: NEG pH: 6.5 
Leuks:
NEG 
___ 05:05PM URINE UCG: NEGATIVE 

BRAIN MRI ___
1. Study is mildly degraded by motion. 
2. Nonspecific focal parafalcine leptomeningeal enhancement and
FLAIR hyperintense signal with scattered areas of slow diffusion
grossly similar compared to ___ outside contrast brain
MRI.  Findings suggestive of neurosarcoid, with differential
considerations of leptomeningeal tumor, and meningitis not
excluded. 
3. Nonspecific low-lying cerebellar tonsils extending
approximately 3 mm inferior to the foramen magnum. 
4. Minimal paranasal sinus disease and minimal nonspecific right
mastoid fluid as described. 
5. Nonenhancing bifrontal white matter lesions as described. 
Differential considerations include sequela of prior trauma or
infection, history of migraine headaches, inflammatory or
demyelinating process, and microangiopathic changes. 

DISCHARGE LABS
--------------
___ 05:37AM BLOOD WBC-4.4 RBC-4.10 Hgb-13.2 Hct-40.6 
MCV-99* MCH-32.2* MCHC-32.5 RDW-12.5 RDWSD-45.5 Plt ___
___ 05:37AM BLOOD Glucose-78 UreaN-7 Creat-0.7 Na-138 K-3.8 
Cl-107 HCO3-16* AnGap-15
___ 05:37AM BLOOD Calcium-8.7 Phos-3.2 Mg-1.___ with PMH of chronic migraines, endometriosis, aortic
stenosis, and anxiety who was referred by Dr. ___ 
expedited
workup of her headaches. Patient endorsed photophobia, however
no meningismus was noted on exam. Previous CSF prior to 
admission showed 29 WBCs and prior MRI on ___ showed 
leptomeningeal enhancement that was
thought to be related to LP the prior day. However repeat MRI on
___ again showed focal parafalcine leptomeningeal enhancement 
of
unclear significance. An LP was attempted at bedside on ___ 
which was unsuccessful. She underwent ___ guided LP on ___ which 
was unremarkable. Special studies ordered on CSF were therefore 
attempted to be canceled given otherwise bland LP. Her headaches 
were treated with Compazine, Tylenol, and ultimately fioricet. 
NSAIDs held given concern they may have contributed to aseptic 
meningitis picture on previous CSF. Given occipital notch 
tenderness on exam, recommended followup in pain clinic for 
consideration of focal nerve block. 

Transitional issues
--------------------
Labs pending at discharge and need follow up
___ 10:30 VARICELLA DNA (PCR) (cerebrospinal fluid (csf)) 
___ ___ MYCOPLASMA PNEUMONIAE DNA, PCR (cerebrospinal 
fluid (csf)) 
___ 10:30 HERPES SIMPLEX VIRUS PCR (cerebrospinal fluid 
(csf)) 
___ 10:30 ENTEROVIRUS PCR (cerebrospinal fluid (csf)) 
___ 10:30 ARBOVIRUS ANTIBODY IGM AND IGG (cerebrospinal 
fluid (csf)) 
___ 10:30 ANGIOTENSIN 1 CONVERTING ENZYME (cerebrospinal 
fluid (csf)) 
___ 10:30 BORRELIA BURG___ ANTIBODY INDEX FOR CNS 
INFECTION (cerebrospinal fluid (csf)) 
Microbiology
___ 11:18 CSF;SPINAL FLUID FLUID CULTURE; FUNGAL CULTURE; 
ACID FAST CULTURE
___ 11:18 CSF;SPINAL FLUID Enterovirus Culture

Please schedule a followup with your Neurologist

Please schedule a followup with pain clinic either at your home 
hospital or at ___ by calling ___ 
 
Medications on Admission:
Adderall ER 20mg daily
Lisinopril 10mg daily
Topamax 75/50mg
Prozac 10mg daily
Clonazepam 0.5mg PRN
Cyclafem ___
Methylprednisolone 4mg tablets 50ct 12 day course, prescribed
___ 
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN Pain - 
Moderate 
RX *butalbital-acetaminophen-caff 50 mg-300 mg-40 mg 1 tab-cap 
by mouth every 4 hours as needed Disp #*20 Capsule Refills:*0 
2.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
3.  Amphetamine-Dextroamphetamine XR 15 mg PO DAILY home med  
4.  ClonazePAM 0.5 mg PO QHS:PRN Anxiety/insomnia  
5.  Cyclafem ___ (28) (norethindrone-ethin estradiol) 1 TAB 
oral DAILY  
6.  FLUoxetine 10 mg PO DAILY  
7.  Lisinopril 10 mg PO DAILY  
8.  Topiramate (Topamax) 75 mg PO QAM  
9.  Topiramate (Topamax) 50 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Headache
History of chronic migraine
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You presented to ___ because you were having 
persistent headaches.

While in the hospital, you had an MRI of the brain which showed 
some nonspecific enhancement of unclear etiology.  A lumbar 
puncture was attempted at bedside, which was unsuccessful.  You 
then underwent ___ guided lumbar puncture which was normal. We 
tried several medications for your headaches, ultimately we 
thought fioricet would be most helpful. Because of pain in a 
spot (occipital notch) on the back of the left side of your 
head, we thought seeing pain clinic for a targeted anti-pain 
medication injection could be very helpful. 

After leaving the hospital, follow-up with your neurologist in 
clinic, and also with pain team. 

We wish you the best,

Your neurology team
 
Followup Instructions:
___